US07906517B2
(3,5-Bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amine (1.2 g) is dissolved in N,N-dimethylformamide (6 ml) and thereto are added palladium acetate (II) (76 mg), 1,1′-bis(diphenylphosphino)ferrocene (376 mg), ethanol (4.0 ml) and triethylamine (4.8 ml), and the mixture is stirred under carbon monoxide at 90° C. overnight. The reaction solution is allowed to cool to room temperature, and thereto is added water and the mixture is extracted with ethyl acetate. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=20:1→10:1) to give ethyl 2-[(3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-pyrimidine-5-carboxylate (1.1 g). MS (m/z): 700 [M+H]+

reactant | (3,5-Bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amine | 1.2 g | FC(C=1C=C(CN(CC2=C(C=CC(=C2)C(F)(F)F)C2=C(C=CC(=C2)C(C)C)OC)C2=NC=C(C=N2)Br)C=C(C1)C(F)(F)F)(F)F | C31H25BrF9N3O
reactant | ethanol | 4.0 ml | C(C)O | C2H6O
reactant | triethylamine | 4.8 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 76 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 376 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | ethyl 2-[(3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-pyrimidine-5-carboxylate | 1.1 g | FC(C=1C=C(CN(C2=NC=C(C=N2)C(=O)OCC)CC2=C(C=CC(=C2)C(F)(F)F)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)C(F)(F)F)(F)F | C34H30F9N3O3
